US03971791
Upon heating a solution of 6.1 g of biphenyl-2-aldehyde, 3.8 g of cyclohexane-1,3-dione and 5.1 g of amidinoacetic acid ethyl ester in 100 ml of ethanol for 1 hour, 2-amino-4-(biphenyl-2-yl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester of melting point 248°C (ethanol) is obtained. Yield: 45% of theory.

reactant | biphenyl-2-aldehyde | 6.1 g | C=1(C(=CC=CC1)C=O)C1=CC=CC=C1 | C13H10O
reactant | cyclohexane-1,3-dione | 3.8 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | amidinoacetic acid ethyl ester | 5.1 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4-(biphenyl-2-yl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester | Yield: 45% | C(C)OC(=O)C1=C(NC=2CCCC(C2C1C1=C(C=CC=C1)C1=CC=CC=C1)=O)N | C24H24N2O3
